US05817834
Preparation of 4-Bromo-2-(3,5-dichlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of N-(2,2,2-trifluoroethyl)-3,5-dichlorobenzimidoyl chloride (8.72 g, 0.03 mol) in N,N-dimethylformamide is treated with 2-chloroacrylonitrile (3.0 g, 0.0345 mol) under a nitrogen atmosphere. Triethylamine (9.56 g, 0.0945 mol) is added slowly at 50° C. over two hours and the reaction mixture is stirred at 58°-60° C. for 18 hours. Bromine (4.8 g, 0.03 mol) is then added over 20 minutes as the temperature rises from 25° C. to 36° C. The resultant reaction mixture is diluted with water and extracted with methylene chloride. Evaporation and flash column chromatography using silica gel and a 20% ethyl acetate in heptane solution gives the title product as a white crystalline solid (5.4 g, 46.9% yield) which is identified by 19F and 1H NMR.

reactant | N-(2,2,2-trifluoroethyl)-3,5-dichlorobenzimidoyl chloride | 0.03 mol, 8.72 g | FC(CN=C(C1=CC(=CC(=C1)Cl)Cl)Cl)(F)F | C9H5Cl3F3N
reactant | 2-chloroacrylonitrile | 0.0345 mol, 3.0 g | ClC(C#N)=C | C3H2ClN
reactant | Triethylamine | 0.0945 mol, 9.56 g | C(C)N(CC)CC | C6H15N
reactant | Bromine | 0.03 mol, 4.8 g | BrBr | Br2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-2-(3,5-dichlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 5.4 g, 46.9% yield | BrC=1C(=C(NC1C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C#N | C12H4BrCl2F3N2
